datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.C[O:12][C:11]1=[CH:10][S:61][CH:62]=[CH:63]1>>C[O+:12]=[C:11]1[CH:10]([CH2:20][CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[S:61][CH:62]=[CH:63]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=C([N+](=O)[O-])C=C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.CC1=C[C:71]2=[C:72](C=C1C)[NH:62][CH:61]=[N:10]2>>CC1=C[C:71]2=[C:72](C=C1C)[NH:62][CH:61]=[N+:10]2[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:45]=[CH:46]1 10=20
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[N:62]1[CH:61]=[N:10][C:64]2=[C:63]1C=CC=C2>>C[C:22]1=[C:21]([CH:20]([N+:10]2=[CH:61][N:62](C)[C:63]3=[C:64]2C=CC=C3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10=20;20,21=21,22;22,23=23"
C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([S+:61](C)C)[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10=20
"C[Si:11](Cl)(Cl)[H:10].Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[Si+:11](Cl)Cl.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C:20]2([H:10])CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1 10,11=10,20"
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].FC(F)(F)[S:81](/[CH:10]=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:76])[CH:63]=[CH:62]1)(=[O:82])=[O:92]>>C[C:21]1=[C:22]([O-:23])CC[CH:20]1[CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:76])[CH:63]=[CH:62]1)[S:81](C(F)(F)F)(=[O:82])=[O:92] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"C1CCC([P:10](C2CCCCC2)C2CCCCC2)CC1.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([P+:10](C2CCCCC2)(C2CCCCC2)C2CCCCC2)[C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1C[C:11](=[CH2:10])C1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([CH2:10][C+:11]2CCC2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20"
"C[N:10](C)[NH:61]C.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>C[N+:10](C)([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]2=[N:35]O[N:42]=[C:41]12)[NH:61]C 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:82][C:71](=[O:72])[C-:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>CC1(C)[O:82][C:71](=[O:72])[C:10]([C:20]2(C#N)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]2=[O:33])([I+:61]C2=CC=CC=C2)[C:91](=[O:92])[O:102]1 10=20;20,21=21,22;22,23=23"
"C1C[C:63]2=[C:62]([CH:11]=[CH:10]1)[CH:67]=[CH:66][CH:65]=[CH:64]2.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2CC[C:63]3=[C:62]([CH+:11]2)[CH:67]=[CH:66][CH:65]=[CH:64]3)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].FC(F)(F)[C:62]1=[C:61]([O-:10])[CH:72]=[CH:73][CH:64]=[CH:63]1>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[O:10][C:61]1=[C:62](C(F)(F)F)[CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)=[C:11]([O-:12])[O:82]1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)([CH:20]([N:21](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21"
C[N:10](C)[NH:61]C.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N+:10](C)([CH:20]([C:31]1=[CH:32][CH:33]=[C:34]([N:37](C)C)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1)[NH:61]C 10=20
